data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-c1ccc(N(=O)=O)cc1_2-C1CCCCC1_3-c1ccc(OC)cc1_4-c1ccc(C)cc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["c1ccc(N(=O)=O)cc1N=[N+]=[N-]","P(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)"],"products_smiles": ["c1ccc(N(=O)=O)cc1N","O=P(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N=[N+]=N[P+](C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N1N=NP1(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(N(=O)=O)cc1N=P(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(N(=O)=O)cc1[NH+]=P(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N[P](O)(C1CCCCC1)(c1ccc(OC)cc1)(c1ccc(C)cc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(N(=O)=O)cc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-319_1-CC_2-C_3-c1ccc(C)cc1_4-C","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(CC)C1(C)OC1(c1ccc(C)cc1)C","NN"],"products_smiles": ["[CH](=C(C)C(O)(c1ccc(C)cc1)C)CC"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(CC)C1(C)OC1(c1ccc(C)cc1)C","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(CC)=C(C)C(O)(c1ccc(C)cc1)C","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(CC)=C(C)C(O)(c1ccc(C)cc1)C","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C)C(O)(c1ccc(C)cc1)C)CC","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C)C(O)(c1ccc(C)cc1)C)CC","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
